US07163936B2
To a solution of allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydoxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (33 mg, 0.06 mmol) in dicloromethane (3 ml) were added at 0° C. acetic acid (8.6 μl, 0.15 mmol), tributyltin hydride (165 ml, 0.61 mmol) and bis(triphenylphosphine)palladium chloride (4.2 mg, 0.006 mmol), and the mixture was stirred at the same temperature for 3 minutes. To the reaction mixture were added phosphate buffer (50 mM, pH7, 25 ml) and dichloromethane (5 ml). After separation of the aqueous layer, the dichloromethane layer was extracted twice with water and the aqueous layer was washed twice with dichloromethane (3 ml). The organic solvent in the aqueous layer was evaporated under reduced pressure, and the residue was purified by polymer chromatography (CHP-20P). The fractions eluted with 1–3% aqueous THF solution were combined and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(2S)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (12.3 mg, 48%) as a white amorphous.

reactant | allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydoxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.06 mmol, 33 mg | C(C=C)OC(=O)N1[C@@H](C(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CO | C25H29N3O7S2
reactant | acetic acid | 0.15 mmol, 8.6 μl | C(C)(=O)O | C2H4O2
reactant | tributyltin hydride | 0.61 mmol, 165 ml | C(CCC)[SnH](CCCC)CCCC
reactant | phosphate | 50 mM, 25 ml, pH7 | P(=O)([O-])([O-])[O-]
solvent | dicloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium chloride | 0.006 mmol, 4.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-({4-[(2S)-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 12.3 mg, 48% | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)SC=1SC=C(N1)C=1[C@H](NCC1)CO)C | C18H21N3O5S2
